US20010006969A1
2-Chloro-7-methyl-4-(2,2-dimethylhydrazino)thieno[3,2-d]pyrimidine
In DMF was dissolved 700 mg (3.4 mmol) of 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine, and then a solution of 450 mg (7.5 mmol) of 1,1-dimethylhydrazine was added dropwise to the resulting solution under ice cooling over 5 minutes. The reaction solution was stirred at 0° C. for one hour and then allowed to resume room temperature, followed by stirring for further one hour. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 173 mg (yield: 20.9%) of the title compound.

reactant | 2,4-dichloro-7-methylthieno[3,2-d]pyrimidine | 3.4 mmol, 700 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)Cl | C7H4Cl2N2S
reactant | 1,1-dimethylhydrazine | 7.5 mmol, 450 mg | CN(N)C | C2H8N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Chloro-7-methyl-4-(2,2-dimethylhydrazino)thieno[3,2-d]pyrimidine | 173 mg, yield: 20.9% | ClC=1N=C(C2=C(N1)C(=CS2)C)NN(C)C | C9H11ClN4S
